US08426420B2
i) (S)-2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester
To a solution of 122 mg Z-Pro-OH in 4 ml DMF was added a solution of 325 mg 1,1′-carbonyldiimidazole in 5 ml DMF and the solution was stirred for 30 minutes at RT before a solution of 148 mg acetamide oxime in 3 ml DMF was added. The reaction mixture was stirred for 12 h before 325 mg 1,1′-carbonyldiimidazole were added and the mixture stirred at 115° C. for 5 h. Then, the reaction mixture was diluted with ethyl acetate and washed with aqueous LiCl (4% w/w), saturated aqueous NaHCO3 and 0.1 M HCl. The crude product obtained after evaporation of the solvent was used in the next reaction step without further purification. Yield: 337 mg.

reactant | Z-Pro-OH | 122 mg | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | 1,1′-carbonyldiimidazole | 325 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | acetamide oxime | 148 mg | C(C)(N)=NO | C2H6N2O
reactant | 1,1′-carbonyldiimidazole | 325 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C1=NC(=NO1)C | C15H17N3O3
